### PR TITLE
[Merged by Bors] - feat: eliminate zeros and poles in meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
Show that every meromorphic function with finitely many zeros and poles is equivalent, modulo equality on codiscrete sets, to the product of a factorized rational function and an analytic function without zeros.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean [hunk 1]
```diff
@@ -163,3 +175,110 @@ theorem divisor {U : Set 𝕜} {D : locallyFinsuppWithin U ℤ} (hD : D.support.
...
+    rw [← hg.divisor_nonneg_iff_analyticOnNhd, divisor_of_toMeromorphicNFOn (hφ.inv.smul h₁f),
+      divisor_smul hφ.inv h₁f _ (fun z hz ↦ h₂f ⟨z, hz⟩), divisor_inv,
+      Function.FactorizedRational.divisor h₃f, neg_add_cancel]
+    intro z hz
+    simp [(hφ z hz).order_inv, order_ne_top (divisor f U)]
+  · -- ∀ (u : ↑U), g ↑u ≠ 0
+    intro ⟨u, hu⟩
+    rw [← (hg hu).order_eq_zero_iff, ← ((hφ.inv.smul h₁f) u hu).order_congr
+      (toMeromorphicNFOn_eq_self_on_nhdNE (hφ.inv.smul h₁f) hu).symm]
+    rw [(hφ u hu).inv.order_smul (h₁f u hu), (hφ u hu).order_inv, order _ h₃f]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/FactorizedRational.lean:220]:
```suggestion
    rw [← (hg hu).order_eq_zero_iff, ← ((hφ.inv.smul h₁f) u hu).order_congr
      (toMeromorphicNFOn_eq_self_on_nhdNE (hφ.inv.smul h₁f) hu).symm,
      (hφ u hu).inv.order_smul (h₁f u hu), (hφ u hu).order_inv, order _ h₃f]
```

File: Mathlib/Data/LocallyFinsupp.lean [hunk 2]
```diff
@@ -101,6 +101,20 @@ lemma apply_eq_zero_of_not_mem [Zero Y] {z : X} (D : locallyFinsuppWithin U Y)
     (hz : z ∉ U) :
     D z = 0 := nmem_support.mp fun a ↦ hz (D.supportWithinDomain a)
 
+/--
+On a T1 space, the support of a functions with locally finite support within `U` is discrete within
+`U`.
+-/
+theorem discreteWithinSupport [Zero Y] [T1Space X] (D : locallyFinsuppWithin U Y) :
```
Comment (sgouezel) [inline Mathlib/Data/LocallyFinsupp.lean:108]:
```suggestion
theorem eq_zero_codiscreteWithin [Zero Y] [T1Space X] (D : locallyFinsuppWithin U Y) :
```
Don't try to be too creative with names, it only makes the lemmas harder to discover :-)

File: Mathlib/Topology/DiscreteSubset.lean [hunk 3]
```diff
@@ -113,6 +113,10 @@ lemma mem_codiscreteWithin_accPt {S T : Set X} :
     S ∈ codiscreteWithin T ↔ ∀ x ∈ T, ¬AccPt x (𝓟 (T \ S)) := by
   simp only [mem_codiscreteWithin, disjoint_iff, AccPt, not_neBot]
 
+/-- Any set is codiscrete within itself. -/
+theorem Filter.codiscreteWithin_self {X : Type*} [TopologicalSpace X] (U : Set X) :
```
Comment (sgouezel) [inline Mathlib/Topology/DiscreteSubset.lean:117]:
```suggestion
theorem Filter.self_mem_codiscreteWithin (U : Set X) :
```

**Review by sgouezel — COMMENTED** [review]
Looks great!

File: Mathlib/Data/LocallyFinsupp.lean [hunk 4]
```diff
@@ -101,6 +101,20 @@ lemma apply_eq_zero_of_not_mem [Zero Y] {z : X} (D : locallyFinsuppWithin U Y)
     (hz : z ∉ U) :
     D z = 0 := nmem_support.mp fun a ↦ hz (D.supportWithinDomain a)
 
+/--
+On a T1 space, the support of a functions with locally finite support within `U` is discrete within
```
Comment (sgouezel) [inline Mathlib/Data/LocallyFinsupp.lean:105]:
```suggestion
On a T1 space, the support of a function with locally finite support within `U` is discrete within
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 5]
```diff
@@ -113,6 +113,10 @@ lemma mem_codiscreteWithin_accPt {S T : Set X} :
     S ∈ codiscreteWithin T ↔ ∀ x ∈ T, ¬AccPt x (𝓟 (T \ S)) := by
   simp only [mem_codiscreteWithin, disjoint_iff, AccPt, not_neBot]
 
+/-- Any set is codiscrete within itself. -/
+theorem Filter.self_mem_codiscreteWithin (U : Set X) :
```
Comment (sgouezel) [inline Mathlib/Topology/DiscreteSubset.lean:117]: Make it `simp`?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Topology/DiscreteSubset.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Topology/DiscreteSubset.lean:118]: Implemented.

**Comment by kebekus** [comment]
@sgouezel Thanks!

bors r+
